US07053060B2
To a suspension of ethyl (E)-3-[4-(2-hydroxybenzyl)phenyl]acrylate (0.34 g) and 1,2,3,4,6-penta-O-acetyl-β-D-glucopyranose (1.4 g) in dichloromethane (3 mL) and toluene (9 ml) was added boron trifluoride-diethyl ether complex (0.45 mL), and the mixture was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: hexane/ethylacetate=4/1) to give (E)-2-[4-(2-ethoxycarbonylvinyl)benzyl]phenyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside (0.47 g). To a solution of the obtained (E)-2-[4-(2-ethoxycarbonylvinyl)benzyl]phenyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside (0.46 g) in methanol (5 mL) was added sodium methoxide (0.010 g), and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: ethyl acetate) to give (E)-2-[4-(2-ethoxycarbonylvinyl)benzyl]phenyl β-D-glucopyranoside (0.31 g).

reactant | ethyl (E)-3-[4-(2-hydroxybenzyl)phenyl]acrylate | 0.34 g | OC1=C(CC2=CC=C(C=C2)/C=C/C(=O)OCC)C=CC=C1 | C18H18O3
reactant | 1,2,3,4,6-penta-O-acetyl-β-D-glucopyranose | 1.4 g | C(C)(=O)O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C16H22O11
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | toluene | 9 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-2-[4-(2-ethoxycarbonylvinyl)benzyl]phenyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside | 0.47 g | C(C)(=O)O[C@H]1[C@H](OC2=C(C=CC=C2)CC2=CC=C(C=C2)\C=C\C(=O)OCC)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C32H36O12
